US06110929
Using the general method of Example 10, 2-propylthiazolo[4,5-c]quinolin-4-amine (1.75 g) was reacted with 1 equivalent of concentrated hydrochloric acid to provide 2-propylthiazolo[4,5-c]quinolin-4-amine hydrochloride as an off-white crystalline solid, m.p. 234-237° C. Analysis: Calculated for C13H13N3S.HCl: % C, 55.81; % H, 5.04; % N, 15.02; Found: % C, 55.86; % H, 5.02; % N, 14.99.

reactant | 2-propylthiazolo[4,5-c]quinolin-4-amine | 1.75 g | C(CC)C=1SC2=C(C(=NC=3C=CC=CC23)N)N1 | C13H13N3S
reactant | hydrochloric acid | 1 equivalent | Cl | ClH
product | 2-propylthiazolo[4,5-c]quinolin-4-amine hydrochloride | Cl.C(CC)C=1SC2=C(C(=NC=3C=CC=CC23)N)N1 | InChI=1S/C13H13N3S.ClH/c1-2-5-10-16-11-12(17-10)8-6-3-4-7-9(8)15-13(11)14;/h3-4,6-7H,2,5H2,1H3,(H2,14,15);1H
